US07148236B2
To an ice bath cooled, stirred mixture of impure 2-Oxo-1,2-dihydro-quinoline-6-sulfonyl chloride (20 g, ˜82 mmol), acetic acid (240 cm3) and acetic anhydride (80 cm3) was added sodium acetate (24 g) in three equal sized batches. Then Zinc (20 g) was added in small batches (exothermic reaction). After one hour the ice bath was removed and the reaction was left stirring at room temperature for five days then concentrated in vacuo then triturated with water (˜200 cm3). The solid that was formed was filtered off and dried in vacua to yield Thioacetic acid S-(2-oxo-1,2-dihydro-quinolin-6-yl) ester as a dry grey solid (11.7 g, ˜65%); δH (300 MHz; D6 DMSO) 2.42 (3H, s, COCH3), 6.51–6.57 (1H, m, Ar—H), 7.32–7.37 (1H, m, Ar—H), 7.43–7.48 (1H, m, Ar—H), 7.72 (1H, s, Ar—H), 7.88–7.92 (1H, m, Ar—H) and 11.95 (1H, br s, N—H); LCMS retention time ˜3.03 min, m/z (FIAPOS) 220 [(M+H)+, 100%].

reactant | 2-Oxo-1,2-dihydro-quinoline-6-sulfonyl chloride | ˜82 mmol, 20 g | O=C1NC2=CC=C(C=C2C=C1)S(=O)(=O)Cl | C9H6ClNO3S
reactant | acetic anhydride | 80 cm3 | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 24 g | C(C)(=O)[O-].[Na+]
catalyst | Zinc | 20 g | [Zn] | Zn
solvent | acetic acid | 240 cm3 | C(C)(=O)O | C2H4O2
product | Thioacetic acid S-(2-oxo-1,2-dihydro-quinolin-6-yl) ester | 11.7 g, ~65% | O=C1NC2=CC=C(C=C2C=C1)SC(C)=O | C11H9NO2S
